* \\Mac\Home\Desktop\sem6\EDL\ltspice_sim\sir_lm - Copy.asc
V1 in 0 SINE(0 2.5 10000)
R4 N020 in 10k
R1 out N020 10K
V2 -15 0 -15
V3 +15 0 15
C1 N020 in 10nF
XU1 0 N020 +15 -15 out LM318
XU2 N022 0 +15 -15 co LM318
XU3 in 0 +15 -15 cs LM318
XU5 0 N021 +15 -15 N022 LM318
R2 N021 out 10K
R5 N022 N021 10K
R3 co ro 5k
R6 ro 0 1k
R8 N025 0 10K
R10 oo N025 5K
XU4 N026 N025 +15 -15 oo LM318
R11 ro N026 10K
V4 P001 0 3.3
R13 P001 N026 15K
R7 cs rs 5k
R9 rs 0 1k
R12 N014 0 10K
R14 ss N014 5K
XU6 N015 N014 +15 -15 ss LM318
R15 rs N015 10K
V5 P002 0 3.3
R16 P002 N015 15K
XU7 in N023 +15 -15 P003 LM318
D1 P003 N023 D
R17 N027 in 1k
R18 N023 N027 1k
XU8 0 N027 +15 -15 P004 LM318
D2 P004 N023 D
r19 N023 0 1k
R20 N023 0 1000k
C2 N023 0 10µ
XU9 out N012 +15 -15 P005 LM318
D3 P005 N012 D
R21 N017 out 1k
R22 N012 N017 1k
XU10 0 N017 +15 -15 P006 LM318
D4 P006 N012 D
r23 N012 0 1k
R24 N012 0 1000k
C3 N012 0 10µ
A1 N010 0 ss 0 N016 0 M1 0 DFLOP
A2 N010 0 oo 0 N016 0 M2 0 DFLOP
XU11 MO1 MO2 N016 AND_2
V7 N010 0 5
V6 N004 0 PULSE(0 5 0 0 0 0.001m 0 1)
XU12 M2 N002 +15 -15 MO2 LM318
XU14 M1 N002 +15 -15 MO1 LM318
V9 N002 0 0.5
C4 N007 0 47n
R26 M2 N007 4.7k
C5 N006 0 47n
R25 M1 N006 4.7k
XU13 M1 N013 +15 -15 P007 LM318
D5 P007 N013 D
R27 N019 M1 1k
R28 N013 N019 1k
XU15 0 N019 +15 -15 P008 LM318
D6 P008 N013 D
r29 N013 0 1k
R30 N013 0 1000k
C6 N013 0 10µ
XU16 M2 N024 +15 -15 P009 LM318
D7 P009 N024 D
R31 N028 M2 1k
R32 N024 N028 1k
XU17 0 N028 +15 -15 P010 LM318
D8 P010 N024 D
r33 N024 0 1k
R34 N024 0 1000k
C7 N024 0 10µ
V8 N005 0 SINE(1.65 1.65 10000)
XU18 N005 N003 +15 -15 N003 LM318
R35 N008 0 5K
R36 N001 N008 10K
XU19 N009 N008 +15 -15 N001 LM318
R37 N003 N009 10K
R38 N011 N009 10K
R39 N011 -15 10K
R40 0 N011 1.2K
.model D D
.lib \\Mac\Home\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m
.lib \\Mac\Home\Desktop\sem6\EDL\LM318.MOD
;tran 1u
* inverting
.lib DigitalLogic.lib
.backanno
.end
